US05559141
1-benzyl-5-[3-(4-tert-butylaminocarbonylaminophenyl)-1-(4-fluorophenyl)1-hydroxypropyl]-1H-imidazole is prepared from 1 -benzyl-5-[3-(4-tert-butylaminocarbonylphenyl)-1-oxopropyl]-1H-imidazole (synthesized by aldol condensation from 1-benzyl-5-acetyl-1H-imidazole and 4-ethoxycarbonylbenzaldehyde followed by hydrogenation, converting to corresponding acid chloride and allowing the product to react with tert-butylamine) and 4-bromofluorobenzene by the method described in the example 7c).

reactant | 1 -benzyl-5-[3-(4-tert-butylaminocarbonylphenyl)-1-oxopropyl]-1H-imidazole | C(C1=CC=CC=C1)N1C=NC=C1C(CCC1=CC=C(C=C1)C(=O)NC(C)(C)C)=O | C24H27N3O2
reactant | 1-benzyl-5-acetyl-1H-imidazole | C(C1=CC=CC=C1)N1C=NC=C1C(C)=O | C12H12N2O
reactant | 4-ethoxycarbonylbenzaldehyde | C(C)OC(=O)C1=CC=C(C=O)C=C1 | C10H10O3
reactant | tert-butylamine | C(C)(C)(C)N | C4H11N
reactant | 4-bromofluorobenzene | BrC1=CC=C(C=C1)F | C6H4BrF
product | 1-benzyl-5-[3-(4-tert-butylaminocarbonylaminophenyl)-1-(4-fluorophenyl)1-hydroxypropyl]-1H-imidazole | C(C1=CC=CC=C1)N1C=NC=C1C(CCC1=CC=C(C=C1)NC(=O)NC(C)(C)C)(O)C1=CC=C(C=C1)F | C30H33FN4O2
